US05175256
A solution of meso 2,3-dimercaptosuccinic acid (4.55 g, 25 mmol) in 50 mL dichloromethane or tetrahydrofuran or other similar aprotic solvents containing p-toluenesulfonic acid monohydrate (0.048 g, 0.252 mmol) is cooled to -18° to -25° C. with constant stirring. Ethyl vinyl ether (4.8 mL, 50 mmol) in 50 mL dichloromethane or other aprotic solvents is added dropwise to the cold solution over a period of 1.5 to 2 hours. The stirring is continued for an additional 30 minutes with the temperature maintained in the -18° to -25° C. range. Then 20 mL of pH 7 phosphate buffer is added, and the reaction mixture is allowed to warm with stirring for 10 to 15 minutes. The reaction mixture is then poured into a flask containing 100 mL of ethyl acetate and 25 mL of deionized water. The layers are separated and the aqueous portion is extracted three times, each time with 50 mL ethyl acetate. The organic layers are combined, washed with water and then brine. The washed ethyl acetate extract is then dried over anhydrous sodium sulfate. Removal of the solvent gives 2 to 3 g of bis S-(1-ethoxyethyl) 2,3-dimercaptosuccinic acid. The material is used without further purification.

reactant | meso 2,3-dimercaptosuccinic acid | 25 mmol, 4.55 g | C(C(C(=O)O)S)(C(=O)O)S | C4H6O4S2
reactant | p-toluenesulfonic acid monohydrate | 0.252 mmol, 0.048 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Ethyl vinyl ether | 50 mmol, 4.8 mL | C(=C)OCC | C4H8O
reactant | phosphate | 20 mL, pH 7 | P(=O)([O-])([O-])[O-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | S-(1-ethoxyethyl) 2,3-dimercaptosuccinic acid | C(C)OC(C)SC(C(=O)O)C(C(=O)O)S | C8H14O5S2
